US08975415B2
The mixture of 6-bromo-4H-spiro[chromene-3,1′-cyclopropan]-4-one (8.0 g, 32 mmol), 2-methylpropane-2-sulfinamide (12 g, 99 mmol), and titanium(IV) tetraethanolate (22 g, 95 mmol) in THF (160 ml) was stirred for 48 hours at 80° C. To the mixture was added H2O (20 ml), filtered through Celite and washed by EtOAc (50 ml). The filtrate was concentrated in vacuo. The residue was purified by silica gel chromatography (hexane:EtOAc=100:0-0:100) to give N-(6-bromo-4H-spiro[chromene-3,1′-cyclopropan]-4-ylidene)-2-methylpropane-2-sulfinamide (6.5 g).

reactant | 6-bromo-4H-spiro[chromene-3,1′-cyclopropan]-4-one | 32 mmol, 8.0 g | BrC=1C=C2C(C3(CC3)COC2=CC1)=O | C11H9BrO2
reactant | 2-methylpropane-2-sulfinamide | 99 mmol, 12 g | CC(C)(C)S(=O)N | C4H11NOS
reactant | H2O | 20 ml | O | H2O
solvent | THF | 160 ml | C1CCOC1 | C4H8O
catalyst | titanium(IV) tetraethanolate | 95 mmol, 22 g | C(C)[O-].C(C)[O-].C(C)[O-].C(C)[O-].[Ti+4]
product | N-(6-bromo-4H-spiro[chromene-3,1′-cyclopropan]-4-ylidene)-2-methylpropane-2-sulfinamide | 6.5 g | BrC=1C=C2C(C3(CC3)COC2=CC1)=NS(=O)C(C)(C)C | C15H18BrNO2S
